US07411001B2
Ethylene glycol vinyl ether (9.88 g, 112 mmol), triphenylphosphine (29.4 g, 112 mmol), and N-hydroxyphthalimide (18.22 g, 111.7 mmol) were combined in 300 mL of anhydrous tetrahydrofuran and cooled to 0° C. (ice bath). Diethylazodicarboxylate (18.0 mL, 114 mmol) was added dropwise over 15 min and the resultant reaction mixture was allowed to warm to ambient temperature over 18 h. The reaction mixture was concentrated to a paste and the solids were filtered and washed with chloroform. The filtrate was further concentrated and filtered again, washing the solids with chloroform. The remaining chloroform solution was concentrated to an oil. The oil was dissolved in absolute ethanol (75 mL). Scratching with a glass rod induced crystallization. The crystals were collected and recrystallized from hot ethanol to afford colorless needles of 2-(2-vinyloxy-ethoxy)-isoindole-1,3-dione (13.8 g, 53% yield): 1H NMR (400 MHz, CDCl3) δ 7.85 (m, 2 H), 7.75 (m, 2 H), 6.46 (dd, J=14.3, 6.7 Hz, 1 H), 4.45 (m, 2H), 4.16 (dd, J=14.4, 2.2 Hz), 4.02 (m 3 H).

reactant | Ethylene glycol vinyl ether | 112 mmol, 9.88 g | C(=C)OCCO | C4H8O2
reactant | triphenylphosphine | 112 mmol, 29.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-hydroxyphthalimide | 111.7 mmol, 18.22 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | Diethylazodicarboxylate | 114 mmol, 18.0 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | 2-(2-vinyloxy-ethoxy)-isoindole-1,3-dione | 13.8 g, 53% yield | C(=C)OCCON1C(C2=CC=CC=C2C1=O)=O | C12H11NO4
